US04281016
Synthesis of crotyl-N,N-dimethyldithiocarbamate
12.0 Grams of a 50% dimethylamine aqueous solution was added to 30 ml of tetrahydrofuran, and to this mixture being maintained a temperature at 0°-5° C., was added dropwise 5.0 gr of carbon disulfide under agitation over the period of 30 minutes. Thereafter, the reaction mixture was maintained at a room temperature and further 5.4 gr of crotyl chloride was added dropwise thereto over the period of 30 minutes, and this was followed by 3-hour agitation at the same temperature to complete the reaction. The reaction mixture was poured into water and the separated organic substance was extracted twice with 30 ml of toluene, washed with diluted hydrochloric acid and further washed with water, and then toluene was removed by distillation to obtain 10.2 gr of the desired product having the following physical properties.

reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | carbon disulfide | 5.0 gr | C(=S)=S | CS2
reactant | crotyl chloride | 5.4 gr | C(C=CC)Cl | C4H7Cl
solvent | water | O | H2O
product | crotyl-N,N-dimethyldithiocarbamate | 10.2 gr | C(C=CC)SC(N(C)C)=S | C7H13NS2
